US07521448B2
1-[4-(2-Chloropropoxy)phenyl]-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide (prepared as described above using 1-(4-hydroxyphenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide as phenol and 1-bromo-3-chloropropane as alkylating agent) (100 mg, 0.24 mmol), 3-trifluoromethoxyphenol (42 mg, 31 μL 0.24 mmol) and potassium carbonate (36 mg, 0.26 mmol) were suspended in acetonitrile (2 mL), DMF (1 mL), and water (0.5 mL) and the mixture stirred at 60° C. for 18 h. The reaction mixture was then concentrated in vacuo and purified by reverse-phase preparative HPLC to give N-pyridin-3-ylmethyl-1-(4-{3-[3-(trifluoromethoxy) phenoxy]propoxy}phenyl)-1H-benzimidazole-5-carboxamide. 1H NMR (CDCl3, 400 MHz): δ 8.66 (d, J=2.0 Hz, 1H), 8.56 (dd, J=4.8, 1.2 Hz, 1H), 8.34 (d, J=1.6 Hz, 1H), 8.05 (s, 1H), 7.90 (dd, J=8.4, 1.6 Hz, 1H), 7.78 (ddd, J=8.0, 2.0, 2.0 Hz, 1H), 7.48 (d, J=8.0 Hz, 1H), 7.43-7.37 (m, 2H), 7.34-7.28 (m, 2H), 7.20-7.08 (m, 3H), 6.90-6.78 (m, 3H), 4.75 (d, J=5.6 Hz, 2H), 4.27 (t, J=6.0 Hz, 2H), 4.22 (t, J=6.0 Hz, 2H), 2.35 (quin, J=6.0 Hz, 2H); MS (ES+): m/z 563 [MH+]

reactant | 1-[4-(2-Chloropropoxy)phenyl]-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | 0.24 mmol, 100 mg | ClC(COC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2)C | C23H21ClN4O2
reactant | 3-trifluoromethoxyphenol | 0.24 mmol, 31 μL, 42 mg | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | potassium carbonate | 0.26 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | 0.5 mL | O | H2O
product | N-pyridin-3-ylmethyl-1-(4-{3-[3-(trifluoromethoxy) phenoxy]propoxy}phenyl)-1H-benzimidazole-5-carboxamide | N1=CC(=CC=C1)CNC(=O)C1=CC2=C(N(C=N2)C2=CC=C(C=C2)OCCCOC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C30H25F3N4O4
